US06506779B1
Step 4: 5-Hydrazino-2-(Methylsulfonyl)Pyridine
To a solution of 3-amino-6-(methylsulfonyl)pyridine (3.72 g, 21.6 mmol) in concentrated hydrochloric acid (30 mL), sodium nitrite (1.78 g, 25.7 mmol) in water (20 mL) was added dropwise at −10° C. to −15° C. and the mixture was stirred for 2 hours at −10° C to −5° C. (Note: the reaction was monitored by thin layer chromatography to make sure all the starting material was consumed). Tin(II) chloride dihydrate (20 g, 88.6 mmol) in concentrated hydrochloric acid (30 mL) was added dropwise at −5° C. The mixture was stirred 1 hour at −5° C. and then left overnight. The mixture was basified with aqueous sodium hydroxide (pH=9) with ice cooling and tetrahydrofuran (200 mL) was added and stirred for 30 minutes. The mixture was filtered by Celite® and the filtrate was extracted with tetrahydrofuran (200 mL×3). The organic extraction was combined and dried over magnesium sulfate and concentrated under reduced pressure to provide the title compound (3.2 g, 78.8%).

reactant | 3-amino-6-(methylsulfonyl)pyridine | 21.6 mmol, 3.72 g | NC=1C=NC(=CC1)S(=O)(=O)C | C6H8N2O2S
reactant | sodium nitrite | 25.7 mmol, 1.78 g | N(=O)[O-].[Na+]
reactant | Tin(II) chloride dihydrate | 88.6 mmol, 20 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | pH=9 | [OH-].[Na+]
solvent | hydrochloric acid | 30 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | hydrochloric acid | 30 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-Hydrazino-2-(Methylsulfonyl)Pyridine | 3.2 g, 78.8% | N(N)C=1C=CC(=NC1)S(=O)(=O)C | C6H9N3O2S
